US06528525B1
(c) Ethyl 3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-(4-methylphenoxy)propionate (2.84 g), which is the product of Reference example 35(b), and palladium on carbon (284 mg) and the reaction mixture was treated to afford the desired compound (2.27 g) as a syrup.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-(4-methylphenoxy)propionate | 2.84 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C | C25H26O4
catalyst | palladium on carbon | 284 mg | [Pd] | Pd
product | Ethyl 3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionate | 2.27 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C | C18H20O4
